US05770615
Following the procedure described in part E of Example 1 (R), (S)-α-[[2-[((1,1-dimethylethyl)dimethylsilyl)oxy]-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]-4-methoxybenzeneacetic acid was condensed with 3-[2-(dimethylamino)ethoxy]aniline to generate the title compound. The 3-[2-(dimethylamino)ethoxy]aniline was prepared by treating commercial 3-aminophenol with diethyl azo dicarboxylate, φ3P, and 2-(dimethylamino)ethanol in THF.

reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | diethyl azo dicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(dimethylamino)ethanol | CN(CCO)C | C4H11NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-[2-(dimethylamino)ethoxy]aniline | CN(CCOC=1C=C(N)C=CC1)C | C10H16N2O
